US07569337B2
7-[(2-Fluoro-ethyl)-methyl-amino]-3-(5-thiophene-2-yl-[1,3,4]oxadiazol-2-yl)-chromen-2-one
40 mg (ca. 0.2 mmol) crude 4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde and 30 mg (0.13 mmol) (5-thiophen-2-yl-[1,3,4]oxadiazol-2-yl)-acetic acid methyl ester are dissolved under argon in 4 mL benzene and 2 mL acetonitrile, treated with 0.03 mL (2 eq.) piperidine and heated to reflux for 1 h. The reaction mixture is allowed to reach room temperature, evaporated, and the residue column chromatographed (silica gel, AcOEt/petroleum ether 1:1). The fluorescent, yellow product is triturated in diisopropylether, then dried under high vacuum to yield 9 mg (19%) desired product as a yellow powder.

reactant | 4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde | ca. 0.2 mmol, 40 mg | FCCN(C1=CC(=C(C=O)C=C1)O)C | C10H12FNO2
reactant | (5-thiophen-2-yl-[1,3,4]oxadiazol-2-yl)-acetic acid methyl ester | 0.13 mmol, 30 mg | COC(CC=1OC(=NN1)C=1SC=CC1)=O | C9H8N2O3S
reactant | piperidine | 0.03 mL, 2 eq. | N1CCCCC1 | C5H11N
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 7-[(2-Fluoro-ethyl)-methyl-amino]-3-(5-thiophene-2-yl-[1,3,4]oxadiazol-2-yl)-chromen-2-one | 9 mg, 19% | FCCN(C1=CC=C2C=C(C(OC2=C1)=O)C=1OC(=NN1)C=1SC=CC1)C | C18H14FN3O3S
